2111-10-12 06:59:00 Physician Resident Progress Note
24 Hour Events:
   -INR: 2.3
 1.9
 1.5  s/p 4 un FFP and vit K.  Getting another un FFP
   this am
   - am head CT per neurosurg
   -Tpn continue to rise
   -Cards believe that EKG may be [**3-7**] to memory T waves, however, given
   that she has the changes in the distribution of the lateral leads.  She
   can be ruled out for MI, however, given her head bleed, she is unable
   to tolerate the treatment- heparin.  At this time, conservative
   management with lipid panel and HbA1c.
   -Neuro following as well
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-10-12**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 61 (60 - 90) bpm
   BP: 127/59(76) {118/59(62) - 152/96(109)} mmHg
   RR: 12 (10 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Height: 62 Inch
           Total In:
                                                                  1,251 mL
                                                                    699 mL
   PO:
           TF:
   IVF:
                                                                    728 mL
                                                                    132 mL
   Blood products:
                                                                    523 mL
                                                                    567 mL
   Total out:
                                                                    240 mL
                                                                    150 mL
   Urine:
                                                                    240 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,011 mL
                                                                    549 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   9.9 g/dL
   154 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   23 mg/dL
   109 mEq/L
   145 mEq/L
   28.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2111-10-11**]  09:25 PM
                             [**2111-10-12**]  03:55 AM
   WBC
   6.9
   7.4
   Hct
   29.2
   28.1
   Plt
   212
   215
   Cr
   0.9
   0.8
   TropT
   0.08
   0.09
   Glucose
   135
   154
   Other labs: PT / PTT / INR:17.0/27.9/1.5, CK / CKMB /
   Troponin-T:87/4/0.09, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
                           Ck   CKMB   Tp
   [**10-12**] 4am            87                  0.09
   [**10-11**] 9:30pm       72        4        0.08
    [**10-11**] 2:30pm      40                <0.01
   Assessment and Plan
   87 y/o woman with hypertension, prior TIA admitted with right hand
   numbness, resolved, in setting of acute on chronic subdural hemorrhage.
   #. Subdural hemorrhage: Small area of acute hemorrhage in
   chronic-appearing subdural per imaging. No residual deficits per exam
   on arrival to MICU.
   - Holding all anticoagulation
   - INR goal 1 (1.4 per neuron), check q4h.  On 5^th unit FFP.  Post
   transfusion coags.
   -rec
d  vitamin K 10 mg PO X 1
   - Q2h neuro checks
   - Recheck HCT later today
   - Appreciate Neurosurgery and Neurology input
   - Neurosurg would like pt medically cleared prior to going to OR.  Will
   consult cards to help clear pt given that she will equivocally rule in
   with elev troponins
   - dilantin load tonight (1000 mg) then 100 mg TID per NSG recs.  Side
   effect of dilantin is hypotension which may explain her relative
   hypotension
   - [**Name (NI) **] elevated
   - repeat head CT this am
   - SSI for euglycemia
   # Chest pain: Patient did have one episode of chest pain in the ED,
   though now is pain-free. EKG does have symmetric T wave inversions,
   though difficult to assess given lack of baseline EKG and fact that
   prior EKG was paced. T wave inversions could reflect intracranial
   pathology though certainly ischemia should be ruled out.
   - CEs x 3.  Troponins elevated at 0.09
   - serial EKGs
   - ECHO in the AM to assess wall motion- [**Name6 (MD) **] [**Name8 (MD) 3798**] RN report- elevated
   PA pressures.  Need to f/up final read.
   - No anticoagulation
   - No BB currently due to relative hypotension
   - Consult cards for medical clearance in light of elev troponins and
   what will most likely be echo abnormalities
   # ? TIA: Neurology consultant believes symptoms compatible with lacunar
   infarct, will be difficult to see on CT. Cannot get MRI due to
   pacemaker. UA negative for infection though certainly infection could
   cause re-presentation of neuro deficits.
   - risk stratification with A1c, lipids in AM.  Labs pending
   - hold any anticoagulation as per above
   - consider CTA after acute bleed addressed (per Neurology)
   - no sign of infection but will sent blood cx with this morning
s labs
   #. Hypertension: Hypertensive on arrival, now with BPs 120s while
   resting comfortably.
   - Hold all antihypertensives
   - consider BB (due to ? ischemia) if SBP > 185
   #. Anemia: Baseline Hct unknown. Add on iron studies.  Will guiac next
   stool.
   # GERD: Continue ppi.
   # Osteoporosis: Hold fosamax for now, will resume when clinically
   stable.
   #. FEN - NPO for now, replete lytes prn
   #. PPx - pneumoboots, PPI (home regimen), bowel meds prn
   # Access: 2 PIVs
   #. Code - Full, confirmed with patient, though she would not like to be
   on life support if there is no chance of recovery.
   # Communication: With patient and family. HCP is daughter [**Name (NI) 376**] per
   patient.
   #. Dispo - MICU for now
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-10-11**] 08:00 PM
   18 Gauge - [**2111-10-11**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-10-12 10:29:00 Physician Attending Progress Note
Chief Complaint: subdural hematoma
   HPI:
   24 Hour Events:
 EKG - At [**2111-10-11**] 10:17 PM
   Has some ongoing headache.  Echo done; results pending.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   DPH, PPI, SQI, statin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2111-10-12**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 64 (60 - 90) bpm
   BP: 102/80(85) {102/59(62) - 152/96(109)} mmHg
   RR: 16 (10 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Height: 62 Inch
           Total In:
                                                                  1,251 mL
                                                                  1,011 mL
   PO:
           TF:
   IVF:
                                                                    728 mL
                                                                    164 mL
   Blood products:
                                                                    523 mL
                                                                    847 mL
   Total out:
                                                                    240 mL
                                                                    400 mL
   Urine:
                                                                    240 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,011 mL
                                                                    611 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, CN II-XII functionally
   intact
   Labs / Radiology
   9.9 g/dL
   215 K/uL
   154 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   23 mg/dL
   109 mEq/L
   145 mEq/L
   28.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2111-10-11**]  09:25 PM
                             [**2111-10-12**]  03:55 AM
   WBC
   6.9
   7.4
   Hct
   29.2
   28.1
   Plt
   212
   215
   Cr
   0.9
   0.8
   TropT
   0.08
   0.09
   Glucose
   135
   154
   Other labs: PT / PTT / INR:17.0/27.9/1.5, CK / CKMB /
   Troponin-T:87/4/0.09, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   87 y/o woman with subdural hematoma and possible TIA.  TIA symptoms
   have resolved but SDH persists.  She also has substantial hypoxemia in
   the setting of multiple units of FFP.  Current problems include:
          Subdural hematoma
          Abnormal EKG and slightly positive troponin (neurogenic vs.
   cardiac)
          Normotense in the setting of history of hypertension
          Anemia
          Hypoxemia
   We will continue seizure prophylaxis.  She will likely need SDH
   drainage per neurosurgery.  We will follow up the echocardiogram report
   and ask cardiology to comment on risk-reducing maneuvers.
   Her hypoxemia is also concerning.  Most likely related to FFP: we will
   check a CXR to start the evaluation.
   For her anemia, we will guaiac stool and follow serial Hcts.
   ICU Care
   Nutrition: NPO for now.
   Glycemic Control:  follow FSBS
   Lines:
   20 Gauge - [**2111-10-11**] 08:00 PM
   18 Gauge - [**2111-10-11**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min

2111-10-13 05:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Neurosurgery: Burr hole when cleared by cards, as high-risk per cards
   will consider in AM
   Cardiology: Patient high-risk given evidence of active ischemia.
   Management restricted [**3-7**] bleeding risk
   Episode of desaturation overnight
 received 40 mg IV lasix with 600 cc
   output
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-10-13**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 84 (61 - 94) bpm
   BP: 155/80(98) {102/58(74) - 155/88(103)} mmHg
   RR: 28 (11 - 34) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Height: 62 Inch
             Total In:
                                                                  1,250 mL
                                                                    154 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    303 mL
                                                                    154 mL
   Blood products:
                                                                    847 mL
   Total out:
                                                                    900 mL
                                                                     75 mL
   Urine:
                                                                    900 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    350 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Gen: Alert and oriented to person, place, and time; pleasant, NAD
   HEENT: NCAT, PERRL, EOMI, MMM and I
   CV: RRR, [**3-11**] soft systolic murmur loudest at LUSB
 heard along RSB as
   well
   Lungs: diffuse crackles L>R
   Abd: soft, NT/ND, +BS
   Ext: no CCE
   Neuro: CN 2-12 grossly intact; motor
 [**5-9**] RUE, otherwise [**6-8**];
   sensation intact
   Labs / Radiology
   255 K/uL
   11.6 g/dL
   144 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   26 mg/dL
   109 mEq/L
   143 mEq/L
   33.5 %
   13.7 K/uL
        [image002.jpg]
                             [**2111-10-11**]  09:25 PM
                             [**2111-10-12**]  03:55 AM
                             [**2111-10-12**]  10:45 AM
                             [**2111-10-13**]  04:12 AM
   WBC
   6.9
   7.4
   13.7
   Hct
   29.2
   28.1
   31.2
   33.5
   Plt
   [**Telephone/Fax (3) 5238**]
   Cr
   0.9
   0.8
   0.9
   TropT
   0.08
   0.09
   Glucose
   135
   154
   144
   Other labs: PT / PTT / INR:16.1/26.6/1.4, CK / CKMB /
   Troponin-T:175/4/0.09, ALT / AST:106/162, Alk Phos / T Bili:106/0.6,
   Differential-Neuts:85.9 %, Lymph:10.3 %, Mono:2.8 %, Eos:0.8 %,
   Albumin:3.7 g/dL, LDH:329 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Fluid analysis / Other labs: iron studies pending, [**Last Name (un) **] stim test WNL,
   dilantin 11.5
   Imaging:
   No significant change in chronic left subdural hematoma. No
   evidence for new hemorrhage or worsening of associated mass effect.
   Echo: extensive regional LV systolic dysfunction c/w multivessel CAD.
   Mild-mod mitral regurg. Moderate PA systolic HTN. Mild-mod AR.
   Assessment and Plan
   87 y/o woman with subdural hematoma and possible TIA vs partial
   seizures as well as what appears to be an acute MI with substantial
   heart failure.  TIA symptoms have resolved but SDH persists.  She also
   has substantial hypoxemia in the setting of multiple units of FFP and
   newly diagnosed systolic CHF.  Current problems include:
   # SUBDURAL HEMORRHAGE (SDH)
 Stable. INR goal 1. Currently 1.4.  Very
   high risk surgical candidate per cards
 prefer medical management.
   -          Vitamin K 10mg PO today
   -          avoid warfarin until cleared by neurosurg
   -          follow INR.  At this point (given pulmonary edema), risks of
   FFP outweigh benefits barring further changes in SDH or increases in
   INR
   -          surgical management per neurosurgery
   -          change neuro checks to q4hours
   -          convert dilantin to PO for sz ppx/control
   -          f/u neurosurg, neurology recs
   # MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   -          management limited by SDH
   -          beta blockade.  Will tolerate SBPs down to 110 for now
   -          diurese gently today to try to decrease myocardial O2 demand
   and improve pulmonary edema (-500 goal)
   # TIA vs Seizure
 Aside from RUE weakness, sx largely resolved.
   -          f/u neurosurgery, neurology recs
   -          continue dilantin
   -          consider CTA as per neuro for further characterization of ?
   ischemia in setting of inability to do MR b/c pacer
   # HEART FAILURE (CHF), SYSTOLIC, ACUTE
   -          diuresis as above
   -          beta blockade given risk of VT in peri-infarct period
   -          hold on ACEI for now given that above takes priority and BP
   is limited
   -          f/u outpatient cardiology records (esp echo to determine if
   any acute ischemic changes manifesting as new pulmonary edema)
   # Anemia
   -          follow up iron studies
   # GERD
   -          PPI
   # Osteoarthritis
 stable
   ICU Care
   Nutrition: Heart Healthy diet
   Glycemic Control:  insulin sliding scale
   Lines:
   20 Gauge - [**2111-10-12**] 10:00 PM
   22 Gauge - [**2111-10-12**] 10:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  protonix
   VAP:
   Comments:
   Communication:  Comments:  daughter and grand-daughter
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2111-10-13 11:59:00 Physician Attending Progress Note
Chief Complaint: SDH, acute MI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Cards and nsurg consults.
   Troponin increased.
   Episode of hypoxemia.
   History obtained from [**Hospital 85**] Medical records, ICU team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-10-12**] 08:00 PM
   Furosemide (Lasix) - [**2111-10-13**] 06:10 AM
   Other medications:
   PPI, SQI, metoprolol, statin, nebs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-10-13**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.5
   HR: 88 (68 - 102) bpm
   BP: 132/75(89) {116/69(82) - 155/88(103)} mmHg
   RR: 26 (18 - 34) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Height: 62 Inch
             Total In:
                                                                  1,260 mL
                                                                    335 mL
   PO:
                                                                    100 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    313 mL
                                                                    215 mL
   Blood products:
                                                                    847 mL
   Total out:
                                                                    900 mL
                                                                  1,115 mL
   Urine:
                                                                    900 mL
                                                                  1,115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    360 mL
                                                                   -780 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   11.6 g/dL
   255 K/uL
   144 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   26 mg/dL
   109 mEq/L
   143 mEq/L
   33.5 %
   13.7 K/uL
        [image002.jpg]
                             [**2111-10-11**]  09:25 PM
                             [**2111-10-12**]  03:55 AM
                             [**2111-10-12**]  10:45 AM
                             [**2111-10-13**]  04:12 AM
   WBC
   6.9
   7.4
   13.7
   Hct
   29.2
   28.1
   31.2
   33.5
   Plt
   [**Telephone/Fax (3) 5238**]
   Cr
   0.9
   0.8
   0.9
   TropT
   0.08
   0.09
   0.15
   Glucose
   135
   154
   144
   Other labs: PT / PTT / INR:16.1/26.6/1.4, CK / CKMB /
   Troponin-T:175/7/0.15, ALT / AST:106/162, Alk Phos / T Bili:106/0.6,
   Differential-Neuts:85.9 %, Lymph:10.3 %, Mono:2.8 %, Eos:0.8 %,
   Albumin:3.7 g/dL, LDH:329 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   87 y/o woman with subdural hematoma and possible TIA as well as what
   appears to be an acute MI with substantial heart failure..  TIA
   symptoms have resolved but SDH persists.  She also has substantial
   hypoxemia in the setting of multiple units of FFP and newly diagnosed
   systolic CHF.  Current problems include:
 SUBDURAL HEMORRHAGE (SDH)
   -          continue vitamin K
   -          avoid warfarin until cleared by neurosurg
   -          follow INR.  At this point (given pulmonary edema), risks of
   FFP outweigh benefits barring further changes in SDH or increases in
   INR
   -          surgical management per neurosurgery
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   -          management limited by SDH
   -          beta blockade.  Will tolerate SBPs down to 110 for now
   -          diurese gently today to try to decrease myocardial O2 demand
   and improve pulmonary edema
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
   -          diuresis as above
   -          beta blockade given risk of VT in peri-infarct period
   -          hold on ACEI for now given that above takes priority and BP
   is limited
 Anemia
   -          follow
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2111-10-12**] 10:00 PM
   22 Gauge - [**2111-10-12**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Maintain in ICU for now given ongoing cardiac, neurologic
   and respiratory issues.
   Total time spent: 35 minutes
   Patient is critically ill

2111-10-14 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -low urine output overnight
   -neurology and neurosurgery ok with ASA 81 - started
   -neuro thinks TIA vs seizure with TIA much more likely
   -cards discussed with patient the need for max medical management
   before even considering the longterm possibility of burr hole placement
   -negative 900ccs in past 24 hours
   -took nasal cannula off and desat to mid-80s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2111-10-13**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-10-14**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 81 (75 - 102) bpm
   BP: 153/85(102) {106/36(75) - 153/89(105)} mmHg
   RR: 25 (20 - 29) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 62 Inch
             Total In:
                                                                    859 mL
                                                                    140 mL
   PO:
                                                                    360 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    499 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    130 mL
   Urine:
                                                                  1,710 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -851 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 5 L
   SpO2: 96%
   Physical Examination
   Gen: Pleasant, alert female in NAD
   Neck: JVD 8 cm
   CV: [**2-8**] soft systolic murmur in LUSB, RRR
   Lungs: crackles L ([**3-8**] lung fields) >R (basilar)
   Abd: soft, NT/ND
   Ext: no CCE
   Neuro: CN 2-12 grossly intact, 5/5 strength by bed exam in all four
   extremities, sensation intact
   Labs / Radiology
   196 K/uL
   10.6 g/dL
   114 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   22 mg/dL
   110 mEq/L
   142 mEq/L
   29.8 %
   11.5 K/uL
        [image002.jpg]
                             [**2111-10-11**]  09:25 PM
                             [**2111-10-12**]  03:55 AM
                             [**2111-10-12**]  10:45 AM
                             [**2111-10-13**]  04:12 AM
                             [**2111-10-13**]  04:45 PM
                             [**2111-10-14**]  02:50 AM
   WBC
   6.9
   7.4
   13.7
   11.5
   Hct
   29.2
   28.1
   31.2
   33.5
   29.8
   Plt
   [**Telephone/Fax (3) 5280**]96
   Cr
   0.9
   0.8
   0.9
   0.9
   0.7
   TropT
   0.08
   0.09
   0.15
   0.10
   0.10
   Glucose
   135
   154
   144
   151
   114
   Other labs: PT / PTT / INR:16.1/26.6/1.4, CK / CKMB /
   Troponin-T:109/5/0.10, ALT / AST:106/162, Alk Phos / T Bili:106/0.6,
   Differential-Neuts:85.9 %, Lymph:10.3 %, Mono:2.8 %, Eos:0.8 %,
   Albumin:3.7 g/dL, LDH:329 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.2
   mg/dL
   Assessment and Plan
   87 y/o woman with subdural hematoma and possible TIA vs partial
   seizures as well as what appears to be an acute MI with substantial
   heart failure.  TIA symptoms have resolved but SDH persists.  She also
   has substantial hypoxemia in the setting of multiple units of FFP and
   newly diagnosed systolic CHF.  Current problems include:
   # SUBDURAL HEMORRHAGE (SDH)
 Stable. INR goal 1. Currently 1.3.  Very
   high risk surgical candidate per cards
 prefer medical management.
   -          Vitamin K 10mg PO today
   -          surgical management electively or in the case of acute
   decompensation
   -          neuro checks to q4hours
   -          continue dilantin
 f/u with neurology when to check levels
   -          f/u neurosurg, neurology recs
   -          head CT [**10-16**] or if pt acutely decompensates
   # MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI) c/b cardiogenic
   pulmonary edema
 Troponins now trending down.
   -          management limited by SDH
   -          beta blockade.  Will tolerate SBPs down to 110 for now
   -          increase ASA to 325 mg ok by neuro and neurosurg
   -          diurese gently today to try to decrease myocardial O2 demand
   and improve pulmonary edema (-500 goal)
   -          per cards, would like to add lisinopril 5mg if BP will
   tolerate
 assess BP tomorrow to determine if BP will tolerate
   -          lasix 40mg IV today for goal -500 mls
   # TIA vs Seizure
 Aside from RUE weakness, sx largely resolved.
   -          f/u neurosurgery, neurology recs
   -          continue dilantin
   -          consider CTA as per neuro for further characterization of ?
   ischemia in setting of inability to do MR b/c pacer
   # Anemia
 Fe studies normal, normocytic, stable.
   -          follow Hcts
   # GERD
   -          PPI
   # Osteoarthritis
 stable
   ICU Care
   Nutrition: Heart healthy diet
   Glucose control
 SSI
   PPX
 Dvt
 pneumoboots, PPI
   Communication
 daughter and granddaughter
   FULL CODE
   Appropriate for transfer out of MICU to floor team

2111-10-14 09:42:00 Physician Attending Progress Note
Chief Complaint: SDH / acute MI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Cardiology and neurosurgery consults continue to follow.
   ASA begun after discussion with neurosurg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   statin, SQI, PPI, vit K, DPH, ASA, Lopressor
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-10-14**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 88 (75 - 96) bpm
   BP: 144/83(97) {106/36(75) - 153/89(105)} mmHg
   RR: 20 (20 - 29) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 62 Inch
             Total In:
                                                                    859 mL
                                                                    173 mL
   PO:
                                                                    360 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    499 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    220 mL
   Urine:
                                                                  1,710 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -851 mL
                                                                    -47 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), soft
   murmurs; no S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : basilar; improved)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   196 K/uL
   114 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   22 mg/dL
   110 mEq/L
   142 mEq/L
   29.8 %
   11.5 K/uL
        [image002.jpg]
                             [**2111-10-11**]  09:25 PM
                             [**2111-10-12**]  03:55 AM
                             [**2111-10-12**]  10:45 AM
                             [**2111-10-13**]  04:12 AM
                             [**2111-10-13**]  04:45 PM
                             [**2111-10-14**]  02:50 AM
   WBC
   6.9
   7.4
   13.7
   11.5
   Hct
   29.2
   28.1
   31.2
   33.5
   29.8
   Plt
   [**Telephone/Fax (3) 5280**]96
   Cr
   0.9
   0.8
   0.9
   0.9
   0.7
   TropT
   0.08
   0.09
   0.15
   0.10
   0.10
   Glucose
   135
   154
   144
   151
   114
   Other labs: PT / PTT / INR:15.0/28.3/1.3, CK / CKMB /
   Troponin-T:109/5/0.10, ALT / AST:106/162, Alk Phos / T Bili:106/0.6,
   Differential-Neuts:85.9 %, Lymph:10.3 %, Mono:2.8 %, Eos:0.8 %,
   Albumin:3.7 g/dL, LDH:329 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.2
   mg/dL
   Imaging: CXR: effusions, pacemaker
   Assessment and Plan
   87 y/o woman with subdural hematoma and possible TIA as well as what
   appears to be an acute MI with substantial heart failure.  TIA symptoms
   have resolved but SDH persists.  Her hypoxemia has improved but not
   resolved with diuresis. Current problems include:

 SUBDURAL HEMORRHAGE (SDH)
          continue vitamin K
          avoid warfarin until cleared by neurosurg
          follow INR.  At this point (given pulmonary edema), risks of
   FFP outweigh benefits barring further changes in SDH or increases in
   INR
          surgical management per neurosurgery.  At present, the plan
   is to follow with intermittent CTs and neuro checks.  If her neurologic
   status declines she would need more urgent intervention.  However, the
   risks of surgical intervention are high in the peri-infarct period and
   we will defer as long as feasible.  Right now, I agree with
   neurosurgery and cardiology that the risks of surgical intervention
   outweigh benefits.
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
          management limited by SDH
          Beta blockade.  Rhythm is not clear on telemetry right now
   (a-sensed v-paced vs. v-paced only).  Will check 12 lead and discuss
   with cardiology.
          Begin ACEI when beta blockade maximized or after a week
   (when VT risk is lower)
          Diurese gently today
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
          diuresis as above
          beta blockade
 see discussion above
          ACEI
 see discussion above
 Anemia
   follow
   ICU Care
   Nutrition: oral diet
   Glycemic Control:  well-controlled
   Lines:
   20 Gauge - [**2111-10-12**] 10:00 PM
   22 Gauge - [**2111-10-12**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor